US07129242B2
4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}benzamide
To a solution of 4-(4-chlorophenyl)-2-(methylsulfonyl)pyrimidine (0.10 g, 0.37 mmol) and 4-aminobenzamide in 2-propanol (3 ml) was heated to 120° C. in a sealed vessel for 14 hours. The crude material was concentrated and purified by preparative HPLC to provide the title compound as a beige solid: LC/MS Retention Time; 6.30 min (Method A), M+1; 325.

reactant | 4-(4-chlorophenyl)-2-(methylsulfonyl)pyrimidine | 0.37 mmol, 0.10 g | ClC1=CC=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C | C11H9ClN2O2S
reactant | 4-aminobenzamide | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}benzamide | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)N)C=C1 | C17H13ClN4O
